US06696470B2
2,5-Di(4-pyridyl)-3-(1-hydroxyethyl)-4-methylthiophene
To a stirred solution of 3-acetyl-4-methyl-2,5-di(4-pyridyl)thiophene (200 mg, 0.68 mmol) in MeOH (5 mL) was added sodium borohydride (30 mg, 0.79 mmol) at 0° C., and the mixture was stirred for 2 hours. Water (5 mL) was added to the mixture. The whole was extracted with ethyl acetate (50 mL), the organic layer washed with brine, dried over MgSO4, and concentrated in vacuo. The resulting residue was purified by flash chromatography eluting with CH2Cl2-MeOH (20:1) to provide the title product as a solid. Recrystallized from ethyl acetate gave the title product (130 mg, 75% yield).

reactant | 3-acetyl-4-methyl-2,5-di(4-pyridyl)thiophene | 0.68 mmol, 200 mg | C(C)(=O)C1=C(SC(=C1C)C1=CC=NC=C1)C1=CC=NC=C1 | C17H14N2OS
reactant | sodium borohydride | 0.79 mmol, 30 mg | [BH4-].[Na+]
reactant | Water | 5 mL | O | H2O
solvent | MeOH | 5 mL | CO | CH4O
product | 2,5-Di(4-pyridyl)-3-(1-hydroxyethyl)-4-methylthiophene | N1=CC=C(C=C1)C=1SC(=C(C1C(C)O)C)C1=CC=NC=C1 | C17H16N2OS
